US08124633B2
Step M: Ethyl 3,5-bis(trifluoromethyl)phenylacetate
To a solution of 3,5-bis(trifluoromethyl)phenylacetic acid (24.65 g, 91 mmol) in dichloromethane (150 mL), was added 200 proof ethanol (10.63 mL, 181 mmol), EDC (34.7 g, 181 mmol) and 4-(N,N-dimethylaminopyridine (DMAP, 14.39 g, 118 mmol) at room temperature. The solution was stirred at RT over night, washed with 2 N HCl and saturated aqueous sodium bicarbonate. The organic layer was dried over MgSO4, and the solvent was removed under vacuum to provide 26 g (96%) of the title compound.

reactant | 3,5-bis(trifluoromethyl)phenylacetic acid | 91 mmol, 24.65 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)O)(F)F | C10H6F6O2
reactant | ethanol | 181 mmol, 10.63 mL | C(C)O | C2H6O
reactant | EDC | 181 mmol, 34.7 g
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Ethyl 3,5-bis(trifluoromethyl)phenylacetate | 26 g, 96% | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)OCC)(F)F | C12H10F6O2
